US08445489B2
6-(3-Hydroxyphenyl)-2H-pyridazin-3-one
15 g of 3-hydroxyacetophenone are converted into the pyridazinone in accordance with GWP 1.

reactant | 3-hydroxyacetophenone | 15 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
product | 6-(3-Hydroxyphenyl)-2H-pyridazin-3-one | OC=1C=C(C=CC1)C=1C=CC(NN1)=O | C10H8N2O2
